US05521196
6-benzyloxy-3-dimethylamino-1,2,3,4-tetrahydrocarbazole
To a solution of 3.78 gm (26.8 mMol) 4-dimethylamino-1-cyclohexanone and 6.69 gm (26.8 mMol) 4-benzyloxyphenyl-hydrazine hydrochloride in 50 mL ethanol were added 2.17 mL (26.8 mMol) pyridine. To this solution were added 5×10 mL portions of water and the reaction mixture then stored at 0° C. for 18 hours. The reaction mixture was then diluted with an additional 50 mL of water and the mixture extracted well with dichloromethane. The combined organic extracts were dried over sodium sulfate and the volatiles removed under reduced pressure. The residual oil was subjected to flash silica gel chromatography, eluting with 9:1 chloroform:methanol. Fractions shown to contain the desired product were combined and concentrated under reduced pressure to give 2.14 gm (24.9%) of the title compound.

reactant | 4-dimethylamino-1-cyclohexanone | 26.8 mMol, 3.78 gm | CN(C1CCC(CC1)=O)C | C8H15NO
reactant | 4-benzyloxyphenyl-hydrazine hydrochloride | 26.8 mMol, 6.69 gm | Cl.C(C1=CC=CC=C1)OC1=CC=C(C=C1)NN
reactant | pyridine | 26.8 mMol, 2.17 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | water | 50 mL | O | H2O
product | 6-benzyloxy-3-dimethylamino-1,2,3,4-tetrahydrocarbazole | 2.14 gm, 24.9% | C(C1=CC=CC=C1)OC=1C=C2C=3CC(CCC3NC2=CC1)N(C)C | C21H24N2O
